US04096253
A suspension of 1-hydroxy-3-methoxyestra-1,3,5(10)-trien-17-one (2.5 g, 8.3 mM), dimethyl sulfate (1.3 g, 10.3 mM) and potassium carbonate (1.2 g) in 250 ml of anhydrous acetone is refluxed with vigorous stirring for 6 hrs. An additional 0.5 g of dimethyl sulfate is added and the suspension refluxed for 14 hrs. The reaction mixture is filtered while warm and the solids washed well with acetone. The combined acetone filtrates are evaporated in vacuo and the residue is recrystallized from methanol-H2O. Two recrystallizations give 1,3-dimethoxyestra-1,3,5(10)-trien-17-one, yield 1.91 g (73%); m.p. 132°-133°.

reactant | 1-hydroxy-3-methoxyestra-1,3,5(10)-trien-17-one | 8.3 mM, 2.5 g | OC1=CC(=CC=2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3C12)=O)OC | C19H24O3
reactant | dimethyl sulfate | 10.3 mM, 1.3 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | potassium carbonate | 1.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfate | 0.5 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | acetone | 250 ml | CC(=O)C | C3H6O
product | 1,3-dimethoxyestra-1,3,5(10)-trien-17-one | COC1=CC(=CC=2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3C12)=O)OC | C20H26O3
